US06110924
f) Preparation of 5[-N-(2-hydroxyethyl)piperazinyl]-5-[3-(tertbutyldimethylsilyloxy)phenyl]barbituric acid
A solution of 5-[3-(tertbutyldimethylsilyloxy)phenyl]-5-bromobarbituric acid (444 mg) and N-(2-hydroxyethyl)piperazine (420 mg) in 10 ml of methanol is stirred at room temperature for 5 hours, then the solvent is evaporated off and the residue is purified by silica gel chromatography (13 g; eluent: ethyl acetate/methanol 3:1), to give 70 mg of the product.

reactant | 5-[3-(tertbutyldimethylsilyloxy)phenyl]-5-bromobarbituric acid | 444 mg | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C1(C(NC(NC1=O)=O)=O)Br)(C)C | C16H21BrN2O4Si
reactant | N-(2-hydroxyethyl)piperazine | 420 mg | OCCN1CCNCC1 | C6H14N2O
solvent | methanol | 10 ml | CO | CH4O
product | 5[-N-(2-hydroxyethyl)piperazinyl]-5-[3-(tertbutyldimethylsilyloxy)phenyl]barbituric acid | 70 mg | OCCN1C(CNCC1)C1(C(NC(NC1=O)=O)=O)C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C | C22H34N4O5Si
